US04421914
o-Chloroaniline (15.9 g) was dissolved in dry toluene (20 ml), and diethyl bromomalonate (12.0 g) was added. The mixture was heated under reflux with stirring for 10 hours. The reaction mixture was washed with dilute hydrochloric acid, then with water three times, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography using benzene as an eluent to give 5.1 g (yield 36%) of diethyl o-chloroanilinomalonate which had the following NMR data.

reactant | o-Chloroaniline | 15.9 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | diethyl bromomalonate | 12.0 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl o-chloroanilinomalonate | 5.1 g, yield 36% | ClC1=C(NC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C13H16ClNO4
